US06225320B1
Bromine (0.52 ml, 10 mmol) was added via syringe to a stirred solution of 3-methoxy-6-trifluoromethyl-4-trimethylstannylpyridine (1.7 g, 5 mmol) in dichloromethane (25 ml). The reaction mixture was stirred for 30 min at room temperature and treated with saturated aqueous Na2SO3 (15 ml). The phases were separated. The aqueous layer was extracted with dichloromethane (2×15 ml). The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (hexane:ethyl acetate 0-15%) to afford 4-bromo-3-methoxy-6-trifluoromethylpyridine as a white solid.

reactant | Bromine | 10 mmol, 0.52 ml | BrBr | Br2
reactant | 3-methoxy-6-trifluoromethyl-4-trimethylstannylpyridine | 5 mmol, 1.7 g | COC=1C=NC(=CC1[Sn](C)(C)C)C(F)(F)F
reactant | Na2SO3 | 15 ml | [O-]S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4-bromo-3-methoxy-6-trifluoromethylpyridine | BrC1=C(C=NC(=C1)C(F)(F)F)OC | C7H5BrF3NO
